US04312368
Preparation Of Ethyl 2-(2-Butyl)-3-hydroxy-3-methyl-3-(3-pyridyl)propionate
To the above solution is added, with stirring, a solution of 3-acetylpyridine (24.2 grams, 0.2 mole) in 80 milliliters of ether. The mixture is stirred for 15 minutes at -78° C. and then allowed to warm up to room temperature (2 hours). Water is added and the ether layer is separated, washed with water, dried with magnesium sulfate and evaporated under reduced pressure to give an oil which weighs 48.0 grams. The oil is distilled in a Kugelrohr apparatus to yield 39.5 grams (74.5%) of the pure product, b.p. 95°-96° C. (air bath temperature) at 0.05 mm Hg.

reactant | 3-acetylpyridine | 0.2 mole, 24.2 grams | C(C)(=O)C=1C=NC=CC1 | C7H7NO
reactant | Water | O | H2O
reactant | ether | 80 milliliters | CCOCC | C4H10O
product | Ethyl 2-(2-Butyl)-3-hydroxy-3-methyl-3-(3-pyridyl)propionate | 39.5 grams, 74.5% | CC(CC)C(C(=O)OCC)C(C=1C=NC=CC1)(C)O | C15H23NO3
